US07569600B2
A solution of 3-[(1-diisopropylsilanyloxymethyl-2-triisopropylsilanyloxy-ethyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-5-(4,4-dimethyl-cyclohexyl)-thiophene-2-carboxylic acid methyl ester (60 mg, 0.078 mmol) in THF (1 mL) was treated with HF.pyridine (0.1 mL). The mixture was stirred at room temperature for 16 h. The mixture was diluted with EtOAc and added to solid NaHCO3. It was stirred at room temperature for 2 h, filtered and evaporated. Pure 5-(4,4-dimethyl-cyclohexyl)-3-[(2-hydroxy-1-hydroxymethyl-ethyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester was obtained on chromatography over silica gel (EtOAc as eluent) (32 mg, 89%).

reactant | 3-[(1-diisopropylsilanyloxymethyl-2-triisopropylsilanyloxy-ethyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-5-(4,4-dimethyl-cyclohexyl)-thiophene-2-carboxylic acid methyl ester | 0.078 mmol, 60 mg | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)C(CO[Si](C(C)C)(C(C)C)C(C)C)CO[SiH](C(C)C)C(C)C)C1CCC(CC1)(C)C | C40H73NO5SSi2
reactant | pyridine | 0.1 mL | N1=CC=CC=C1 | C5H5N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-(4,4-dimethyl-cyclohexyl)-3-[(2-hydroxy-1-hydroxymethyl-ethyl)-(trans-4-methyl-cyclohexanecarbonyl)-amino]-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1N(C(=O)[C@@H]1CC[C@H](CC1)C)C(CO)CO)C1CCC(CC1)(C)C | C25H39NO5S
